US04954501
6-[4-[3-(4-imidazolyl)-propylamino]-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
2.67 g (10 mmol) of 6-(4-chloro-3-nitro-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone are boiled under reflux with 2.5 g (20 mmol) of 4-(3-aminopropyl)-1H-imidazole in 50 ml of dioxane for 5 hours.

reactant | 6-(4-chloro-3-nitro-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 10 mmol, 2.67 g | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C11H10ClN3O3
reactant | 4-(3-aminopropyl)-1H-imidazole | 20 mmol, 2.5 g | NCCCC=1N=CNC1 | C6H11N3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-[4-[3-(4-imidazolyl)-propylamino]-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | N1C=NC(=C1)CCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C17H20N6O3
